US07183270B2
Part C. Preparation of 1-[(1S,2R,4R)-2-benzenesulfonylmethyl-4-(isopropyl-methyl-amino)-cyclohexyl]-(3S)-3-(6-chloro-2-trifluoromethyl-pyrido[2,3-d]pyrimidin-4-ylamino)-pyrrolidin-2-one
The titled compound was prepared from (3S)-3-amino-1-[(1S,2R,4R)-2-benzenesulfonylmethyl-4-(isopropyl-methyl-amino)-cyclohexyl]-pyrrolidin-2-one and 4,6-dichloro-2-trifluoromethyl-pyrido[2,3-d]pyrimidine using the conditions described in Example 106, part C. MS (ES+)=639 (M+H)+.

reactant | (3S)-3-amino-1-[(1S,2R,4R)-2-benzenesulfonylmethyl-4-(isopropyl-methyl-amino)-cyclohexyl]-pyrrolidin-2-one | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)CS(=O)(=O)C1=CC=CC=C1)=O | C21H33N3O3S
reactant | 4,6-dichloro-2-trifluoromethyl-pyrido[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)C(F)(F)F)N=CC(=C2)Cl | C8H2Cl2F3N3
product | 1-[(1S,2R,4R)-2-benzenesulfonylmethyl-4-(isopropyl-methyl-amino)-cyclohexyl]-(3S)-3-(6-chloro-2-trifluoromethyl-pyrido[2,3-d]pyrimidin-4-ylamino)-pyrrolidin-2-one | C1(=CC=CC=C1)S(=O)(=O)C[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)N1C([C@H](CC1)NC=1C2=C(N=C(N1)C(F)(F)F)N=CC(=C2)Cl)=O | C29H34ClF3N6O3S
